US05225566
Step 1) Preparation of N-[(3S,4R)-3-Hydroxy-2,2-dimethyl-6-(trifluoromethoxy)-chroman-4-yl]-4,5-dimethoxy-2-nitrobenzamide
Methyl 4,5-dimethoxy-2-nitrobenzoate (4.8 g, 20 mmol) was hydrolyzed to the corresponding carboxylic acid by refluxing overnight with KOH (1.6 g, 40 mmol) in 1:1 methanol/benzene (100 mL). The mixture was concentrated to give the crude carboxylate, dissolved in H2O, and precipitated as 4,5-dimethoxy-2-nitrobenzoic acid with 2N HCl. This acid (2.27 g, 10 mmol) was then converted to the corresponding acid chloride by refluxing in benzene (30 mL) with thionyl chloride (1.66 g, 14 mmol) for 1 hour. The crude mixture was concentrated in vacuo and diluted with dichloromethane (10 mL). This solution was added to a cooled solution of (3S,4R)-4amino-2,2-dimethyl-6-(trifluoromethoxy)-chroman-3-ol (2.75 g, 10 mmol), triethylamine (1.39 mL, 10 mmol) and dichloromethane (25 mL). The crude benzamide was worked-up in a method similar to that in Example 1 and chromatographed (1:1 hexanes/ethyl acetate) to afford 2.74 g (56%) of white solid: m.p. 97°-100° C.; 1H NMR (DMSO-d6): δ 9.00 (s, 1H), 7.62 (s, 1H), 7.39 (d, 1H), 7.25 (s, 1H), 7.16 (d, 1H), 6.86 (d, 1H), 5.86 (d, 1H), 4.96 (br t, 1H), 3,91 (s, 3H), 3.89 (s, 3H), 3.64 (dd, 1H), 1.43 (s, 3H), 1.20 (s, 3H).

reactant | Methyl 4,5-dimethoxy-2-nitrobenzoate | 20 mmol, 4.8 g | COC1=CC(=C(C(=O)OC)C=C1OC)[N+](=O)[O-] | C10H11NO6
reactant | KOH | 40 mmol, 1.6 g | [OH-].[K+]
reactant | thionyl chloride | 14 mmol, 1.66 g | S(=O)(Cl)Cl | Cl2OS
reactant | (3S,4R)-4amino-2,2-dimethyl-6-(trifluoromethoxy)-chroman-3-ol | 10 mmol, 2.75 g | N[C@H]1[C@@H](C(OC2=CC=C(C=C12)OC(F)(F)F)(C)C)O | C12H14F3NO3
reactant | triethylamine | 10 mmol, 1.39 mL | C(C)N(CC)CC | C6H15N
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
solvent | H2O | O | H2O
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | methanol benzene | 100 mL | CO.C1=CC=CC=C1
product | N-[(3S,4R)-3-Hydroxy-2,2-dimethyl-6-(trifluoromethoxy)-chroman-4-yl]-4,5-dimethoxy-2-nitrobenzamide | 2.74 g, 56% | O[C@@H]1C(OC2=CC=C(C=C2[C@H]1NC(C1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-])=O)OC(F)(F)F)(C)C | C21H21F3N2O8
